US07338959B2
N5-[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 4-[(methylsulfonyl)methyl]aniline (46 mg, 0.25 mmol) as a white solid (66 mg, 46%). 1H NMR (400 MHz, d6-DMSO) δ 9.18 (s, 1H), 7.72-7.77 (M, 3H), 7.42 (d, J=7.6 Hz, 2H), 7.16-7.21 (m, 4H), 7.10 (d, J=8.0 Hz, 1H), 7.02 (d, J=2.0 Hz, 1H), 6.79 (dd, J=8.4 and 2.0 Hz, 1H), 5.58 (d, J=5.6 Hz, 1H), 5.12 (m, 1H), 4.31 (s, 2H), 3.58 (s, 3H), 3.38 (s, 3H), 2.82 (s, 3H), 1.50 (d, J=6.8 Hz, 3H). MS (ESI) m/z=542 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.25 mmol, 46 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N5-[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)CC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | InChI=1S/C29H31N7O2S.ClH/c1-20(22-8-6-5-7-9-22)31-29-33-25-18-24(14-15-26(25)36(29)3)35(2)27-16-17-30-28(34-27)32-23-12-10-21(11-13-23)19-39(4,37)38;/h5-18,20H,19H2,1-4H3,(H,31,33)(H,30,32,34);1H
